* NGSPICE file created from tri_buff_rcx.ext - technology: ihp-sg13g2

.subckt tri_buff_rcx VSS S A X VDD
X0 X.t0 A.t0 a_220_96# VSS.t3 sg13_lv_nmos ad=0.2822p pd=2.34u as=74.7f ps=1.01u w=0.83u l=0.13u
X1 a_220_96# S.t0 VSS.t1 VSS.t0 sg13_lv_nmos ad=74.7f pd=1.01u as=0.1577p ps=1.21u w=0.83u l=0.13u
X2 a_220_412# a_24_96# VDD.t1 VDD.t0 sg13_lv_pmos ad=0.1116p pd=1.42u as=0.2356p ps=1.62u w=1.24u l=0.13u
X3 X.t1 A.t0 a_220_412# VDD.t0 sg13_lv_pmos ad=0.4216p pd=3.16u as=0.1116p ps=1.42u w=1.24u l=0.13u
X4 VDD.t1 S.t0 a_24_96# VDD.t0 sg13_lv_pmos ad=0.2356p pd=1.62u as=0.4216p ps=3.16u w=1.24u l=0.13u
X5 VSS.t1 S.t0 a_24_96# VSS.t2 sg13_lv_nmos ad=0.1577p pd=1.21u as=0.2822p ps=2.34u w=0.83u l=0.13u
R0 X X.t0 18.0243
R1 X X.t1 5.73859
R2 A A.t0 15.1851
R3 S S.t0 15.0769
R4 VDD.n0 VDD.t0 8.50843
R5 VDD.n0 VDD.t1 5.99815
R6 VDD VDD.n0 0.15803
R7 VSS.n1 VSS.t0 488.745
R8 VSS.t0 VSS.n0 257.461
R9 VSS.n1 VSS.t2 175.98
R10 VSS.n0 VSS.t3 152.952
R11 VSS.n3 VSS.t1 17.2842
R12 VSS.n2 VSS.n0 11.7168
R13 VSS.n2 VSS.n1 10.0243
R14 VSS.n3 VSS.n2 4.25824
R15 VSS VSS.n3 0.158409
C0 VDD S 0.07415f
C1 a_220_412# a_24_96# 0
C2 VDD A 0.07258f
C3 a_220_412# X 0.00971f
C4 a_220_96# a_24_96# 0
C5 VDD a_24_96# 0.36226f
C6 X a_220_96# 0.00603f
C7 VDD X 0.16794f
C8 S A 0.03113f
C9 S a_24_96# 0.38283f
C10 A a_24_96# 0.0408f
C11 S X 0.00625f
C12 X A 0.32184f
C13 VDD a_220_412# 0.00506f
C14 X a_24_96# 0.25827f
C15 VDD a_220_96# 0
C16 X VSS 0.53002f
C17 A VSS 0.31334f
C18 S VSS 0.29038f
C19 VDD VSS 0.11915f
C20 a_220_96# VSS 0.00347f
C21 a_220_412# VSS 0
C22 a_24_96# VSS 0.21657f
C23 VDD.t1 VSS 0.04074f
C24 VDD.t0 VSS 0.52172f
C25 VDD.n0 VSS 0.10671f
C26 S.t0 VSS 0.37529f
C27 A.t0 VSS 0.29342f
C28 X.t0 VSS 0.1501f
C29 X.t1 VSS 0.21807f
.ends

